US05629347
To a solution of (3-methoxyphenyl)acetylchloride (25 g, 135 mmol), in dry dichloromethane (50 ml) was added t-butanol (14 ml) slowly with stirring. After stirring at room temperature for 5 minutes, the reaction was cooled in ice, and triethylamine (20 ml) added dropwise. After stirring a further 2 hours at room temperature, the reaction was poured into saturated aqueous sodium carbonate solution, extracted with dichloromethane, dried (MgSO4), solvents evaporated, and the residue chromatographed on silica (eluted 10% diethyl ether-petroleum ether bp 60°-80°), to give t-butyl (3-methoxyphenyl)acetate. 1H NMR (250 MHz, CDCl3) δ1.38 (9H, s), 3.42 (2H, s), 3.73 (3H, s), 6.69-6.82 (3H, m), 7.17 (1H, t, J=8.4Hz).

reactant | (3-methoxyphenyl)acetylchloride | 135 mmol, 25 g | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | t-butanol | 14 ml | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | t-butyl (3-methoxyphenyl)acetate | COC=1C=C(C=CC1)CC(=O)OC(C)(C)C | C13H18O3
